US05831094
N-TERT-BUTOXYCARBONYL-D-VALINOL
A solution of D-valinol (5.1 g, 49.4 mmol) and di-tert-butyldicarbonate (10.9 g, 52 mmol) in methanol (60 ml) was stirred for 17 hours at room temperature. After concentration in vacuo, the residue was purified by flash chromatography (silica gel, ethyl acetate/petroleum ether: 3/7, Rf: 0.37) to give the title compound in quantitative yield (10.07 g, colorless oil).

reactant | D-valinol | 49.4 mmol, 5.1 g | N[C@H](C(C)C)CO | C5H13NO
reactant | di-tert-butyldicarbonate | 52 mmol, 10.9 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 60 ml | CO | CH4O
product | N-TERT-BUTOXYCARBONYL-D-VALINOL | quantitative yield | C(C)(C)(C)OC(=O)N[C@H](C(C)C)CO | C10H21NO3
